US04866089
Preparation of 6,7-methylenedioxy-2,2-dimethyl-4-chromanone
A mixture of 20 ml of water, 5.2 g (30 millimole) of dibromo-methane and 0.5 g (1 millimole) of Adogen 464 (Aldrich) is heated to boiling under vigorous stirring. A solution of 4.2 g (20 millimoles) of 6,7-dihydroxy-2,2-dimethyl-4-chromanone and 50 ml of a 5% sodium hydroxide solution is added dropwise within 2 hours and heated to boiling for a further hour. The mixture is diluted with 100 ml of water and extracted twice with 50 ml of chloroform each. The organic layer is washed twice with 50 ml of water, dried over sodium sulfate, the solvent is removed and the residue crystallized from hexane. Thus 3.6 g of the desired compound are obtained, yield 85%. Mp.: 61°-62° C.

reactant | dibromo-methane | 30 millimole, 5.2 g | BrCBr | CH2Br2
reactant | 6,7-dihydroxy-2,2-dimethyl-4-chromanone | 20 millimoles, 4.2 g | OC=1C=C2C(CC(OC2=CC1O)(C)C)=O | C11H12O4
reactant | sodium hydroxide | [OH-].[Na+]
catalyst | Adogen 464 | 1 millimole, 0.5 g | CCCCCCCC[N+](C)(CCCCCCCC)CCCCCCCC.[Cl-]
solvent | water | 100 ml | O | H2O
solvent | water | 20 ml | O | H2O
product | 6,7-methylenedioxy-2,2-dimethyl-4-chromanone | 3.6 g, yield 85% | C1OC=2C=C3C(CC(OC3=CC2O1)(C)C)=O | C12H12O4
